US06489344B1
1 mmol of [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine, and 2 mmol of methyliminodiacetic acid, 4 mmol of HBTU, and 5 mmol of N,N-diisopropylethylamine were added to solution and stirred for six hours at room temperature. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain 1-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-4-methylpiperazine-2,6-dione.

reactant | [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine | 1 mmol | NC=1C(=NC(=NC1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N)C1=C(C=C(C=C1)Cl)Cl | C17H16Cl2N8O2
reactant | methyliminodiacetic acid | 2 mmol | CN(CC(=O)O)CC(=O)O | C5H9NO4
reactant | HBTU | 4 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5 mmol | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-4-methylpiperazine-2,6-dione | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1C(CN(CC1=O)C)=O)[N+](=O)[O-] | C22H21Cl2N9O4
